### PR TITLE
[Merged by Bors] - feat: a binary fan in `Over X` is the same thing as a pullback cone to `X`

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

Co-authored-by: Andrew Yang <the.erd.one@gmail.com>
Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean [hunk 1]
```diff
@@ -512,4 +512,79 @@ def PushoutCocone.isoMk {F : WalkingSpan ⥤ C} (t : Cocone F) :
...
+/-- A pushout cocone from `X` is a colimit if its corresponding binary cofan in `Under X` is a
+colimit. -/
+def IsColimit.pushoutCoconeToBinaryCofan (hc : IsColimit c) :
+    IsColimit <| PushoutCocone.toBinaryCofan.obj c :=
+  (IsColimit.ofCoconeEquiv pushoutCoconeEquivBinaryCofan).symm hc
+
+end Under
+
+section Over
+variable {f : Y ⟶ X} {g : Z ⟶ X} {c : PullbackCone f g}
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:555]: it looks like `c` is only used in the very last definition here, let's put it there instead

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean [hunk 2]
```diff
@@ -512,4 +512,79 @@ def PushoutCocone.isoMk {F : WalkingSpan ⥤ C} (t : Cocone F) :
...
+  }
+
+/-- The pushout cocone from `X` corresponding to a binary cofan in `Under X`. -/
+@[simp]
+def binaryCofanUnder.toPushoutCocone : BinaryCofan (Under.mk f) (.mk g) ⥤ PushoutCocone f g where
+  obj c := .mk c.inl.right c.inr.right (c.inl.w.symm.trans c.inr.w)
+  map {c1 c2} a := {
+    hom := a.hom.right
+    w := by rintro (_|_|_) <;> simp [← Under.comp_right]
+  }
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:535]: I don't think we care about them as separate functors so I don't think these should be defined separately because it just adds a new way to express the same thing (`pushoutCoconeEquivBinaryCofan.functor` and `binaryCofanUnder.toPushoutCocone`).

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean [hunk 3]
```diff
@@ -512,4 +512,79 @@ def PushoutCocone.isoMk {F : WalkingSpan ⥤ C} (t : Cocone F) :
...
+
+/-- Pushout cocones from `X` are the same thing as binary cofans in `Under X`. -/
+@[simp]
+def pushoutCoconeEquivBinaryCofan : PushoutCocone f g ≌ BinaryCofan (Under.mk f) (.mk g) :=
+  .mk PushoutCocone.toBinaryCofan binaryCofanUnder.toPushoutCocone
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:540]: Please do not use `mk` and use the `where` constructor instead (we should really add a warning at that def to tell people not to unless absolutely necessary).

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean [hunk 4]
```diff
@@ -512,4 +512,79 @@ def PushoutCocone.isoMk {F : WalkingSpan ⥤ C} (t : Cocone F) :
       · dsimp
         simp
 
+section Under
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: This should go in `Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean`

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: Why?

Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: Oops wrong file.
Should be `Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean`.

Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: And please keep the comment about why we couldn't just reuse the content of that file.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:535]: Maybe just copy it from my PR?

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: I still don't really see the point of moving this construction to a later file, but okay

Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: Then you could also make `Mathlib/CategoryTheory/Limits/Constructions/Over/BinaryProducts.lean` and put it there. The point is `CategoryTheory/Limits/Shapes/*` probably shouldn't mention any specific category.

Comment (b-mehta) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:515]: (shouldn't mention specific category for the output `C`; whereas `J` should be specific by nature of what that folder is. and here you're specialising `C`)

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean:535]: I'll let you try it for yourself. This one times out:
```
def pushoutCoconeEquivBinaryCofan : PushoutCocone f g ≌ BinaryCofan (Under.mk f) (.mk g) where
  functor.obj c := .mk (Under.homMk (U := .mk f) (V := .mk (f ≫ c.inl)) c.inl rfl)
      (Under.homMk (U := .mk g) (V := .mk (f ≫ c.inl)) c.inr c.condition.symm)
  functor.map {c₁ c₂} a := { hom := Under.homMk a.hom, w := by rintro (_|_) <;> aesop_cat }
  inverse.obj c := .mk c.inl.right c.inr.right (c.inl.w.symm.trans c.inr.w)
  inverse.map {c₁ c₂} a := {
    hom := a.hom.right
    w := by rintro (_|_|_) <;> simp [← Under.comp_right]
  }
  unitIso := NatIso.ofComponents fun c ↦ c.eta
  counitIso := NatIso.ofComponents (fun X ↦ BinaryCofan.ext (Under.isoMk (.refl _)
    (by dsimp; simpa using X.inl.w.symm)) (by ext; dsimp; simp) (by ext; dsimp; simp))
    (by intros; ext; dsimp; simp [BinaryCofan.ext])
  functor_unitIso_comp c := by ext; dsimp; simp [BinaryCofan.ext]
```
That one doesn't:
```
def pullbackConeEquivBinaryFan : PullbackCone f g ≌ BinaryFan (Over.mk f) (.mk g) where
  functor.obj c := .mk (Over.homMk (U := .mk (c.fst ≫ f)) (V := .mk f) c.fst rfl)
      (Over.homMk (U := .mk (c.fst ≫ f)) (V := .mk g) c.snd c.condition.symm)
  functor.map {c₁ c₂} a := { hom := Over.homMk a.hom, w := by rintro (_|_) <;> aesop_cat }
  inverse.obj c := PullbackCone.mk c.fst.left c.snd.left (c.fst.w.trans c.snd.w.symm)
  inverse.map {c₁ c₂} a := {
    hom := a.hom.left
    w := by rintro (_|_|_) <;> simp [← Over.comp_left_assoc, ← Over.comp_left]
  }
  unitIso := NatIso.ofComponents (fun c ↦ c.eta) (by intros; ext; dsimp; simp)
  counitIso := NatIso.ofComponents (fun X ↦ BinaryFan.ext (Over.isoMk (Iso.refl _)
    (by simpa using X.fst.w.symm)) (by ext; dsimp; simp) (by ext; dsimp; simp))
    (by intros; ext; dsimp; simp [BinaryFan.ext])
  functor_unitIso_comp c := by ext; dsimp; simp [BinaryFan.ext]
```

Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackCone.lean]:
```

@[simp]
lemma CategoryTheory.Limits.BinaryCofan.ext_hom_hom {A B : C} {c c' : BinaryCofan A B}
    (e : c.pt ≅ c'.pt) (h₁ : c.inl ≫ e.hom = c'.inl) (h₂ : c.inr ≫ e.hom = c'.inr) :
    (ext e h₁ h₂).hom.hom = e.hom := rfl

def pushoutCoconeEquivBinaryCofan : PushoutCocone f g ≌ BinaryCofan (Under.mk f) (Under.mk g) where
  functor.obj c := .mk (Under.homMk (U := .mk f) (V := .mk (f ≫ c.inl)) c.inl rfl)
      (Under.homMk (U := .mk g) (V := .mk (f ≫ c.inl)) c.inr c.condition.symm)
  functor.map {c₁ c₂} a := { hom := Under.homMk a.hom, w := by rintro (_|_) <;> aesop_cat }
  inverse.obj c := .mk c.inl.right c.inr.right (c.inl.w.symm.trans c.inr.w)
  inverse.map {c₁ c₂} a :=
  { hom := a.hom.right
    w := by rintro (_|_|_) <;> dsimp <;> simp [← Under.comp_right] }
  unitIso := NatIso.ofComponents (fun c ↦ c.eta) (fun f ↦ by ext; dsimp; simp)
  counitIso := NatIso.ofComponents (fun X ↦ BinaryCofan.ext (Under.isoMk (.refl _)
    (by dsimp; simpa using X.inl.w.symm)) (by ext; dsimp; simp) (by ext; dsimp; simp))
    (by intros; ext; dsimp; simp)
  functor_unitIso_comp c := by ext; dsimp; simp
```
This works for me

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 5]
```diff
@@ -20,11 +20,97 @@ open CategoryTheory CategoryTheory.Limits
 
 variable {J : Type w}
 variable {C : Type u} [Category.{v} C]
-variable {X : C}
+variable {X Y Z : C}
 
-namespace CategoryTheory.Over
+/-!
+## Binary products
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:26]: Let's add to the module doc that the binary case is done too, and further that it's done separately to get better defeqs.

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 6]
```diff
@@ -20,11 +20,97 @@ open CategoryTheory CategoryTheory.Limits
...
+    (fun s ↦ Under.UnderMorphism.ext (hc.fac _ _)) (fun s ↦ Under.UnderMorphism.ext (hc.fac _ _))
+      fun s m e₁ e₂ ↦ by
+    ext1
+    refine PushoutCocone.IsColimit.hom_ext hc ?_ ?_
+    · simpa using congr(($e₁).right)
+    · simpa using congr(($e₂).right)
+
+end Under
+
+section Over
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:72]: nit: I think most of the library does the limit case before the colimit case

**Review by b-mehta — APPROVED** [review]
Nice! I'm guessing Andrew is happy with this, but just to be sure

bors d=@erdOne

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 7]
```diff
@@ -20,11 +23,97 @@ open CategoryTheory CategoryTheory.Limits
...
 variable {J : Type w}
 variable {C : Type u} [Category.{v} C]
-variable {X : C}
+variable {X Y Z : C}
+
+/-!
+## Binary products
+
+One could have used the following but it gives worse defeqs.
+`(Cones.postcomposeEquivalence (diagramIsoCospan _).symm).trans (conesEquiv _ (pair Y Z))`
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:32]: This should be `(Cones.postcomposeEquivalence (diagramIsoCospan _).symm).trans
    (Over.ConstructProducts.conesEquiv _ (pair (Over.mk f) (Over.mk g)))` instead, and it only applies to `pullbackConeEquivBinaryFan`.

For coproducts we unfortunately do not have the corresponding general results.

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 8]
```diff
@@ -20,11 +23,97 @@ open CategoryTheory CategoryTheory.Limits
 
 variable {J : Type w}
 variable {C : Type u} [Category.{v} C]
-variable {X : C}
+variable {X Y Z : C}
+
+/-!
+## Binary products
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:29]: Can you merge this section with the `BinaryProduct` section below and use the new results to golf `isPullback_of_binaryFan_isLimit`?

**Comment by YaelDillies** [comment]
There are now many TODOs in the file and there is probably a refactor of `BinaryFan` to be done here. However, this starts being out of scope for the current PR, and we're at the tip of a chain of about 8 PRs from Toric so I would rather move on and delegate the refactor as future work.

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 9]
```diff
@@ -20,9 +28,201 @@ open CategoryTheory CategoryTheory.Limits
...
+-- bad defeqs?
+def IsLimit.pullbackConeEquivBinaryFanInverse {c : BinaryFan (Over.mk f) (.mk g)} (hc : IsLimit c) :
+    IsLimit <| pullbackConeEquivBinaryFan.inverse.obj c :=
+  PullbackCone.IsLimit.mk
+    (c.fst.w.trans c.snd.w.symm)
+    (fun s ↦ (hc.lift <| pullbackConeEquivBinaryFan.functor.obj s).left)
+    (fun s ↦ by simpa only using congr($(hc.fac _ _).left))
+    (fun s ↦ by simpa only using congr($(hc.fac _ _).left))
+    <| fun s m hm₁ hm₂ ↦ by
+      simp [-PullbackCone.π_app_left, -PullbackCone.π_app_right] at *
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:103]: Non-terminal simp.

**Comment by YaelDillies** [comment]
1B... *instructions*? What's the source of your claim?

**Comment by mattrobball** [comment]
https://speed.lean-lang.org/mathlib4/run-detail/e7b27246-a3e6-496a-b552-ff4b45c7236e/6939380346f358d4da9bde8b3fbba195c3a9d014

**Comment by YaelDillies** [comment]
This PR builds an equivalence between two categories. Something I've noticed is that everything is much faster when I build the forward and inverse functors separately, then put them together into the equivalence at the end. But @erdOne asked me in https://github.com/leanprover-community/mathlib4/pull/23723#discussion_r2033833861 to undo that. You can redo it if performance is a concern.

**Comment by mattrobball** [comment]
I'm just trying to understand

**Comment by YaelDillies** [comment]
Okay, then my understanding is that two declarations with each a  big `aesop_cat` are much faster than the equivalent declaration with two big `aesop_cat`s. Maybe it has something to do with the fact that, in the two declarations case, some big terms are hidden behind the first def when it is used in the second def?
